US08258141B2
Step 8: 9-((1R,2S,3R,4S)-2,3-Dihydroxy-4-propionylamino-cyclopentyl)-6-(2,2-diphenyl-ethylamino)-9H-purine-2-carboxylic acid (2-amino-ethyl)-amide
9-((1R,2S,3R,4S)-2,3-Dihydroxy-4-propionylamino-cyclopentyl)-6-(2,2-diphenyl-ethylamino)-9H-purine-2-carboxylic acid methyl ester (62 mg, 1.0 mmol) is dissolved in ethylene diamine (3.4 ml, 51 mmol) and the solution is stirred at 105° C. The reaction is shown to be complete by LCMS after 45 minutes. The reaction mixture is concentrated in vacuo and the title compound is obtained after purification by reverse phase column chromatography (Isolute™ C18, 0-100% acetonitrile in water). MS (ES+) m/e 573.4 (MH+).

reactant | 9-((1R,2S,3R,4S)-2,3-Dihydroxy-4-propionylamino-cyclopentyl)-6-(2,2-diphenyl-ethylamino)-9H-purine-2-carboxylic acid methyl ester | 1.0 mmol, 62 mg | COC(=O)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C29H32N6O5
reactant | ethylene diamine | 51 mmol, 3.4 ml | C(CN)N | C2H8N2
product | 9-((1R,2S,3R,4S)-2,3-Dihydroxy-4-propionylamino-cyclopentyl)-6-(2,2-diphenyl-ethylamino)-9H-purine-2-carboxylic acid (2-amino-ethyl)-amide | NCCNC(=O)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CC)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C30H36N8O4
